US04898871
The procedure is as in Example 26, but starting with 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (12.3 g) in dimethylformamide (150 cc), an oily suspension (50% by weight; 2.4 g) of sodium hydride and N-chloroacetylmorpholine (8.2 g). The residue obtained is purified initially by chromatography on silica (0.063-0.2 mm; 180 g) contained in a column 4 cm in diameter [eluant: methylene chloride/methanol mixture (95:5 by volume)], collecting 100-cc fractions. Fractions 190 to 210 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified again by flash chromatography on silica (0.040-0.063 mm; 82 g) contained in a column 3 cm in diameter (eluant: methylene chloride/methanol [98:2 by volume)], collecting 10-cc fractions. Fractions 220 to 235 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The solid obtained is recrystallized successively in acetonitrile and in ethanol. 2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-(2-morpholino-2-oxoethoxy)-1-isoindolinone (2 g), m.p. 192° C., is thereby obtained.

reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 12.3 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | N-chloroacetylmorpholine | 8.2 g | ClCC(=O)N1CCOCC1 | C6H10ClNO2
solvent | dimethylformamide | 150 cc | CN(C=O)C | C3H7NO
product | 2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-(2-morpholino-2-oxoethoxy)-1-isoindolinone | 2 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OCC(=O)N1CCOCC1)=O | C23H22N4O5
